### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/SimplicialSet): nondegenerate simplices in the standard simplex

### PR DESCRIPTION
**Pull request by joelriou**
In this PR, we show that `d`-dimensional nondegenerate simplices in `Δ[n]` identify to `Fin (d + 1) ↪o Fin (n + 1)`.

(This PR also contains some general additional API for (non)degenerate simplices. For this reason, three definitions related to subcomplexes generated by a simplex had to be moved from `StdSimplex.lean` to `Subcomplex.lean`.)

---

- [x] depends on: #28337

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean [hunk 1]
```diff
@@ -232,4 +232,121 @@ lemma unique_nonDegenerate_map (x : X _⦋n⦌) {m : ℕ}
 
 end
 
+namespace Subcomplex
+
+variable {X} (A : X.Subcomplex)
+
+lemma mem_degenerate_iff {n : ℕ} (x : A.obj (op (.mk n))) :
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean]:
```suggestion
lemma mem_degenerate_iff {n : ℕ} (x : A.obj (op ⦋n⦌)) :
```
And similarly below.
Being able to use the `_⦋n⦌` notation for subcomplexes would be cool, but I don't have time to investigate this.

File: Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean [hunk 2]
```diff
@@ -232,4 +232,121 @@ lemma unique_nonDegenerate_map (x : X _⦋n⦌) {m : ℕ}
...
+    x ∈ degenerate A n ↔ x.1 ∈ X.degenerate n := by
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean]:
```suggestion
    x ∈ degenerate A n ↔ x.val ∈ X.degenerate n := by
```
This is probably a matter of taste and very bikesheddy, so I will only point it once here, but IMO the decrease in readability of replacing named projections by their numerical index is not worth the few characters it saves.
These indices should be treated as implementation details if anything else.

This is even more the case for the second projection, in things like
```lean
    simpa [A.mem_degenerate_iff] using h x.2
```
which is IMO way less clear than
```lean
    simpa [A.mem_degenerate_iff] using h x.prop
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean [hunk 3]
```diff
@@ -232,4 +232,121 @@ lemma unique_nonDegenerate_map (x : X _⦋n⦌) {m : ℕ}
...
+  rw [SSet.mem_degenerate_iff, SSet.mem_degenerate_iff]
+  constructor
+  · rintro ⟨m, hm, f, _, ⟨y, rfl⟩⟩
+    exact ⟨m, hm, f, inferInstance, ⟨y.1, rfl⟩⟩
+  · obtain ⟨x, hx⟩ := x
+    rintro ⟨m, hm, f, _, ⟨y, rfl⟩⟩
+    refine ⟨m, hm, f, inferInstance, ⟨⟨y, ?_⟩, rfl⟩⟩
+    have := isSplitEpi_of_epi f
+    simpa only [Set.mem_preimage, ← op_comp, ← FunctorToTypes.map_comp_apply,
+      IsSplitEpi.id, op_id, FunctorToTypes.map_id_apply] using A.map (section_ f).op hx
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean]:
```suggestion
    simpa [Set.mem_preimage, ← op_comp, ← FunctorToTypes.map_comp_apply,
      IsSplitEpi.id, op_id, FunctorToTypes.map_id_apply] using A.map (section_ f).op hx
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean [hunk 4]
```diff
@@ -232,4 +232,121 @@ lemma unique_nonDegenerate_map (x : X _⦋n⦌) {m : ℕ}
...
+
+variable {X} {Y : SSet.{u}}
+
+lemma degenerate_map {n : ℕ} {x : X _⦋n⦌} (hx : x ∈ X.degenerate n) (f : X ⟶ Y) :
+    f.app _ x ∈ Y.degenerate n := by
+  obtain ⟨m, hm, g, y, rfl⟩ := hx
+  exact ⟨m, hm, g, f.app _ y, by rw [FunctorToTypes.naturality]⟩
+
+lemma degenerate_le_preimage (f : X ⟶ Y) (n : ℕ) :
+    X.degenerate n ⊆ Set.preimage (f.app _) (Y.degenerate n) :=
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean]:
```suggestion
    X.degenerate n ⊆ (f.app _)⁻¹' (Y.degenerate n) :=
```
if you want to use the dedicated notation.

File: Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean [hunk 5]
```diff
@@ -232,4 +232,121 @@ lemma unique_nonDegenerate_map (x : X _⦋n⦌) {m : ℕ}
...
+  fun _ hx ↦ degenerate_map hx f
+
+lemma image_degenerate_le (f : X ⟶ Y) (n : ℕ) :
+    Set.image (f.app _) (X.degenerate n) ⊆ Y.degenerate n := by
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean]:
```suggestion
    (f.app _)'' (X.degenerate n) ⊆ Y.degenerate n := by
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean [hunk 6]
```diff
@@ -232,4 +232,121 @@ lemma unique_nonDegenerate_map (x : X _⦋n⦌) {m : ℕ}
...
+lemma degenerate_iff_of_mono {Y : SSet.{u}} (f : X ⟶ Y) [Mono f] (x : X _⦋n⦌) :
+    f.app _ x ∈ Y.degenerate n ↔ x ∈ X.degenerate n := by
+  rw [← degenerate_iff_of_isIso (Subcomplex.toRange f) x,
+    Subcomplex.mem_degenerate_iff]
+  simp
+
+variable {X} in
+lemma nonDegenerate_iff_of_mono {Y : SSet.{u}} (f : X ⟶ Y) [Mono f] (x : X _⦋n⦌) :
+    f.app _ x ∈ Y.nonDegenerate n ↔ x ∈ X.nonDegenerate n := by
+  simp only [mem_nonDegenerate_iff_notMem_degenerate, degenerate_iff_of_mono]
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean]:
```suggestion
  simp [mem_nonDegenerate_iff_notMem_degenerate, degenerate_iff_of_mono]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean [hunk 7]
```diff
@@ -232,4 +232,121 @@ lemma unique_nonDegenerate_map (x : X _⦋n⦌) {m : ℕ}
...
+    Subtype.exists, exists_prop]
+  exact ⟨n, x, hx, mem_ofSimplex_obj x⟩
+
+end Subcomplex
+
+section
+
+variable {X} {Y : SSet.{u}}
+
+lemma degenerate_map {n : ℕ} {x : X _⦋n⦌} (hx : x ∈ X.degenerate n) (f : X ⟶ Y) :
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean]: `degenerate_app_apply` maybe?

File: Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean [hunk 8]
```diff
@@ -232,4 +232,121 @@ lemma unique_nonDegenerate_map (x : X _⦋n⦌) {m : ℕ}
...
+  simpa using le_iff_contains_nonDegenerate ⊤ A
+
+lemma degenerate_eq_top_iff (n : ℕ) :
+    degenerate A n = ⊤ ↔ (X.degenerate n ⊓ A.obj _) = A.obj _ := by
+  constructor
+  · intro h
+    ext x
+    simp only [Set.inf_eq_inter, Set.mem_inter_iff, and_iff_right_iff_imp]
+    intro hx
+    simp only [← A.mem_degenerate_iff ⟨x, hx⟩, h, Set.top_eq_univ, Set.mem_univ]
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean]:
```suggestion
    simp [← A.mem_degenerate_iff ⟨x, hx⟩, h, Set.top_eq_univ, Set.mem_univ]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean [hunk 9]
```diff
@@ -232,4 +232,121 @@ lemma unique_nonDegenerate_map (x : X _⦋n⦌) {m : ℕ}
...
+lemma degenerate_iff_of_isIso (f : X ⟶ Y) [IsIso f] {n : ℕ} (x : X _⦋n⦌) :
+    f.app _ x ∈ Y.degenerate n ↔ x ∈ X.degenerate n := by
+  constructor
+  · intro hy
+    simpa [← FunctorToTypes.comp] using degenerate_map hy (inv f)
+  · exact fun hx ↦ degenerate_map hx f
+
+lemma nonDegenerate_iff_of_isIso (f : X ⟶ Y) [IsIso f] {n : ℕ} (x : X _⦋n⦌) :
+    f.app _ x ∈ Y.nonDegenerate n ↔ x ∈ X.nonDegenerate n := by
+  simp only [mem_nonDegenerate_iff_notMem_degenerate,
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean]:
```suggestion
  simp [mem_nonDegenerate_iff_notMem_degenerate,
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 10]
```diff
@@ -266,6 +259,59 @@ lemma range_δ {n : ℕ} (i : Fin (n + 2)) :
...
+`ULift (Fin (n + 1))`. -/
+def isoNerve (n : ℕ) :
+    (Δ[n] : SSet.{u}) ≅ nerve (ULift.{u} (Fin (n + 1))) :=
+  NatIso.ofComponents (fun d ↦ Equiv.toIso (objEquiv.trans
+    { toFun f := (ULift.orderIso.symm.monotone.comp f.toOrderHom.monotone).functor
+      invFun f :=
+        SimplexCategory.Hom.mk
+          (ULift.orderIso.toOrderEmbedding.toOrderHom.comp f.toOrderHom)
+      left_inv _ := by aesop
+      right_inv _ := by rfl }))
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
      left_inv _ := by aesop }))
```
auto-param finds `right_inv`.

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 11]
```diff
@@ -266,6 +259,59 @@ lemma range_δ {n : ℕ} (i : Fin (n + 2)) :
   rw [Subcomplex.range_eq_ofSimplex]
   exact ofSimplex_yonedaEquiv_δ i
 
+/-- The standard simplex identifies to the nerve to the preordered type
+`ULift (Fin (n + 1))`. -/
+def isoNerve (n : ℕ) :
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean:265]:
```suggestion
@[pp_with_univ]
def isoNerve (n : ℕ) :
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 12]
```diff
@@ -266,6 +259,59 @@ lemma range_δ {n : ℕ} (i : Fin (n + 2)) :
...
+    SimplexCategory.mono_iff_injective]
+  refine ⟨fun h ↦ h.injective, fun h ↦ ?_⟩
+  rw [Fin.strictMono_iff_lt_succ]
+  intro i
+  obtain h' | h' := (stdSimplex.monotone_apply s i.castSucc_le_succ).lt_or_eq
+  · exact h'
+  · simpa [Fin.ext_iff] using h h'
+
+lemma objEquiv_symm_mem_nonDegenerate_iff_mono {n d : ℕ} (f : ⦋d⦌ ⟶ ⦋n⦌) :
+    (objEquiv.{u} (m := (op ⦋d⦌))).symm f ∈ Δ[n].nonDegenerate d ↔ Mono f := by
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean:302]: Removing `(m := (op ⦋d⦌))` here makes lean infers `m` as `op d`, breaking through the defeq `d = ⦋d⦌`, despite irreducibility of SimplexCategory. Do you understand why this happens?

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 13]
```diff
@@ -266,6 +259,59 @@ lemma range_δ {n : ℕ} (i : Fin (n + 2)) :
...
+
+/-- Nondegenerate `d`-dimensional simplices of the standard simplex `Δ[n]`
+identify to order embeddings `Fin (d + 1) ↪o Fin (n + 1)`. -/
+def nonDegenerateEquiv {n d : ℕ} :
+    (Δ[n] : SSet.{u}).nonDegenerate d ≃ (Fin (d + 1) ↪o Fin (n + 1)) where
+  toFun s := OrderEmbedding.ofStrictMono _ ((mem_nonDegenerate_iff_strictMono _).1 s.2)
+  invFun s := ⟨objEquiv.symm (.mk s.toOrderHom), by
+    simpa only [mem_nonDegenerate_iff_strictMono] using s.strictMono⟩
+  left_inv _ := by aesop
+  right_inv _ := rfl
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 14]
```diff
@@ -266,6 +259,59 @@ lemma range_δ {n : ℕ} (i : Fin (n + 2)) :
...
+    (objEquiv.{u} (m := (op ⦋d⦌))).symm f ∈ Δ[n].nonDegenerate d ↔ Mono f := by
+  simp [mem_nonDegenerate_iff_mono]
+
+/-- Nondegenerate `d`-dimensional simplices of the standard simplex `Δ[n]`
+identify to order embeddings `Fin (d + 1) ↪o Fin (n + 1)`. -/
+def nonDegenerateEquiv {n d : ℕ} :
+    (Δ[n] : SSet.{u}).nonDegenerate d ≃ (Fin (d + 1) ↪o Fin (n + 1)) where
+  toFun s := OrderEmbedding.ofStrictMono _ ((mem_nonDegenerate_iff_strictMono _).1 s.2)
+  invFun s := ⟨objEquiv.symm (.mk s.toOrderHom), by
+    simpa only [mem_nonDegenerate_iff_strictMono] using s.strictMono⟩
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
    simpa [mem_nonDegenerate_iff_strictMono] using s.strictMono⟩
```

File: Mathlib/Order/Hom/Basic.lean [hunk 15]
```diff
@@ -1220,3 +1220,11 @@ lemma denselyOrdered_iff_of_strictAnti {X Y F : Type*} [LinearOrder X] [Preorder
     rw [hf.le_iff_ge]
 
 end DenselyOrdered
+
+universe v u in
+
+/-- The bijection `ULift.{v} α ≃ α` as an isomorphism of orders. -/
+@[simps!]
```
Comment (robin-carlier) [inline Mathlib/Order/Hom/Basic.lean]:
```suggestion
@[pp_with_univ, simps!]
```

File: Mathlib/Order/Hom/Basic.lean [hunk 16]
```diff
@@ -1220,3 +1220,11 @@ lemma denselyOrdered_iff_of_strictAnti {X Y F : Type*} [LinearOrder X] [Preorder
     rw [hf.le_iff_ge]
 
 end DenselyOrdered
+
+universe v u in
+
```
Comment (robin-carlier) [inline Mathlib/Order/Hom/Basic.lean]:
```suggestion
```
I think that if you use the `in` keyword, there should be no line break before the declaration, just like we do for `variable`.

File: Mathlib/AlgebraicTopology/SimplicialSet/Subcomplex.lean [hunk 17]
```diff
@@ -24,27 +24,84 @@ in the category of presheaves.
...
 
+/-- The subcomplex of a simplicial set that is generated by a simplex. -/
+abbrev ofSimplex {n : ℕ} (x : X _⦋n⦌) : X.Subcomplex := Subpresheaf.ofSection x
+
+lemma mem_ofSimplex_obj {n : ℕ} (x : X _⦋n⦌) :
+    x ∈ (ofSimplex x).obj _ :=
+  Subpresheaf.mem_ofSection_obj x
+
+lemma ofSimplex_le_iff {n : ℕ} (x : X _⦋n⦌) (A : X.Subcomplex) :
+     ofSimplex x ≤ A ↔ x ∈ A.obj _ :=
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Subcomplex.lean]:
```suggestion
    ofSimplex x ≤ A ↔ x ∈ A.obj _ :=
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean [hunk 18]
```diff
@@ -232,4 +232,121 @@ lemma unique_nonDegenerate_map (x : X _⦋n⦌) {m : ℕ}
...
 
+namespace Subcomplex
+
+variable {X} (A : X.Subcomplex)
+
+lemma mem_degenerate_iff {n : ℕ} (x : A.obj (op (.mk n))) :
+    x ∈ degenerate A n ↔ x.1 ∈ X.degenerate n := by
+  rw [SSet.mem_degenerate_iff, SSet.mem_degenerate_iff]
+  constructor
+  · rintro ⟨m, hm, f, _, ⟨y, rfl⟩⟩
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Degenerate.lean]:
```suggestion
  · rintro ⟨m, hm, f, _, y, rfl⟩
```
Recall that `⟨u₁, u₂, …, uₙ⟩` is secretely `⟨u₁, ⟨u₂, …, ⟨uₙ₋₁,  uₙ⟩⟩⟩`. If you want, there are many more instances below. Your call if you think the original is more readable.

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean (hunk 12 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean:302]: No, I do not understand what is happening here!

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 19]
```diff
@@ -266,6 +259,58 @@ lemma range_δ {n : ℕ} (i : Fin (n + 2)) :
...
+  · exact h'
+  · simpa [Fin.ext_iff] using h h'
+
+lemma objEquiv_symm_mem_nonDegenerate_iff_mono {n d : ℕ} (f : ⦋d⦌ ⟶ ⦋n⦌) :
+    (objEquiv.{u} (m := (op ⦋d⦌))).symm f ∈ Δ[n].nonDegenerate d ↔ Mono f := by
+  simp [mem_nonDegenerate_iff_mono]
+
+/-- Nondegenerate `d`-dimensional simplices of the standard simplex `Δ[n]`
+identify to order embeddings `Fin (d + 1) ↪o Fin (n + 1)`. -/
+def nonDegenerateEquiv {n d : ℕ} :
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean:308]:
```suggestion
@[simps! apply_apply symm_apply_coe]
def nonDegenerateEquiv {n d : ℕ} :
```
IMO the lemmas here are reasonable.

**Review by robin-carlier — COMMENTED** [review]
There’s potentially a `@[simps!]` that can be added if you agree that the lemmas look reasonable, no more nitpicks about the rest.

Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by joelriou** [comment]
bors cancel

Shall retry later...

**Comment by joelriou** [comment]
Retrying...

bors merge
